US04447441
A solution of 3-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-ylmethylthio]propionitrile (850 mg.) in concentrated sulphuric acid (4 ml.) was kept at 20° for 16 hours then added dropwise to saturated aqueous sodium carbonate. The mixture was extracted with EtOAc (3×20 ml.) and the extract dried (MgSO4) and evaporated in vacuo to give 3-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-ylmethylthio]propionamide as an oil. The maleic acid salt was prepared in acetone (yield 720 mg; 60%), m.p. 168°-169° (decomp.).

reactant | 3-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-ylmethylthio]propionitrile | 850 mg | FC(CN=C(NC1=NC(=NC=C1)CSCCC#N)N)(F)F | C11H13F3N6S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | sulphuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
product | 3-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-ylmethylthio]propionamide | FC(CN=C(NC1=NC(=NC=C1)CSCCC(=O)N)N)(F)F | C11H15F3N6OS
